US04617314
(+)-2-Methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylic acid [[α]D =+16.67° (dimethylformamide, c=1)], 6 g, is dissolved in a mixed solvent of 55 ml of dimethylformamide and 55 ml of acetone and 5.9 g of triethylamine is added, and the whole is stirred. Under cooling at 15° C. 2.7 g of ethyl chlorocarbonate is added dropwise for 10 minutes and the solution is stirred at room temperature for 40-45 minutes. Then, (-)-1-ethyl-2-aminomethylpyrrolidine, 7.5 g, is added and the reactant is stirred at room temperature for 20 minutes and allowed to stand overnight. Excess triethylamine and acetone are distilled off under reduced pressure and the resulting residue is poured while stirring into 500-600 ml of water. Precipitated cystals are separated by suction filtration, washed with water and dried. The filtrate, aqueous layer is extracted with ethyl acetate three times. The extract layer is washed with water and dried, and ethyl acetate is distilled off under reduced pressure to give crude crystals. Both the crude crystals are put together and recrystallized from ethyl acetate to afford crystals of N-(1-ethyl-2-pyrrolidinylmethyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide, m.p. 164°-165° C., [α]D =-50.867° (dimethylformamide, c=1), which is an optically active compound.

reactant | (+)-2-Methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxylic acid | CC1OC2=C(C1)C=C(C=C2C(=O)O)S(N)(=O)=O | C10H11NO5S
reactant | triethylamine | 5.9 g | C(C)N(CC)CC | C6H15N
reactant | ethyl chlorocarbonate | 2.7 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | (-)-1-ethyl-2-aminomethylpyrrolidine | C(C)N1C(CCC1)CN | C7H16N2
solvent | dimethylformamide | 55 ml | CN(C=O)C | C3H7NO
solvent | acetone | 55 ml | CC(=O)C | C3H6O
product | N-(1-ethyl-2-pyrrolidinylmethyl)-2-methyl-5-sulfamoyl-2,3-dihydrobenzofuran-7-carboxamide | C(C)N1C(CCC1)CNC(=O)C1=CC(=CC=2CC(OC21)C)S(N)(=O)=O | C17H25N3O4S
